US08071807B2
Step 3: {3-[4-(4-Chloro-benzoylamino)-2-phenylsulfanylmethyl-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester
[3-(4-Amino-2-phenylsulfanylmethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester (0.4 g, 0.9 mmol) and triethylamine (11 mL) were combined in CH2Cl2 (10 mL). 4-Chlorobenzoyl chloride (0.29 mL, 2.3 mmol) was added, and the reaction was stirred at room temperature for 20 minutes. The mixture was concentrated to give the title compound, which was used directly in the hydrolysis step.

reactant | [3-(4-Amino-2-phenylsulfanylmethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | 0.9 mmol, 0.4 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CSC1=CC=CC=C1)=O | C24H25NO4S
reactant | triethylamine | 11 mL | C(C)N(CC)CC | C6H15N
reactant | 4-Chlorobenzoyl chloride | 2.3 mmol, 0.29 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | {3-[4-(4-Chloro-benzoylamino)-2-phenylsulfanylmethyl-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)Cl)=O)CSC1=CC=CC=C1)=O | C31H28ClNO5S
